US20010003782A1
4,4-Dimethyl-17β-((1R)-methylbutyl)androsta-8,14-dien-3β-ol
To a solution of 24-toluenesulphonyloxy-4,4-dimethyl-5α-chola-8,14-diene-3-ol (100 mg, 0.18 mmol) in diethyl ether (25 mL) was added lithium aluminium hydride (40 mg, 1.1 mmol) and the reaction was stirred 16 hours at room temperature. The reaction was then poured into water and extracted with diethyl ether. Drying over magnesium sulphate, concentration under reduced pressure and purification by flash chromatography gave the title compound (41 mg).

reactant | 24-toluenesulphonyloxy-4,4-dimethyl-5α-chola-8,14-diene-3-ol | 0.18 mmol, 100 mg | C=1(C(=CC=CC1)S(=O)(=O)OCCC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C(C(CC[C@]4(C)C3CC[C@]12C)O)(C)C)C | C33H48O4S
reactant | lithium aluminium hydride | 1.1 mmol, 40 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 4,4-Dimethyl-17β-((1R)-methylbutyl)androsta-8,14-dien-3β-ol | 41 mg | CC1(C2CCC=3C4=CC[C@@H]([C@@]4(C)CCC3[C@]2(CC[C@@H]1O)C)[C@@H](CCC)C)C | C26H42O
